US04171366
24.8 g (0.1 mole) of 4,5-dihydro-5-methyl-benzo[f]thieno [2,3-b]thiepin-4-ol in 600 ml of benzene is boiled, with the addition of 0.57 g (0.03 mole) of p-toluenesulphonic acid hydrate, for one hour on a water separator. The solution is thereupon cooled to 20°, extracted by shaking with 2 N sodium bicarbonate solution, dried over sodium sulphate and concentrated in vacuo. The oily residue is chromatographed on a silica-gel column (300 g of silica gel, particle size 0.063-0.2 mm) with the use of cyclohexane as the eluant. Recrystallisation of the eluted substance from pentane yields 5-methyl-benzo[f]thieno[2,3-b]thiepin, m.p. 70°-71°.

reactant | 4,5-dihydro-5-methyl-benzo[f]thieno [2,3-b]thiepin-4-ol | 0.1 mole, 24.8 g | CC1C(C2=C(SC3=C1C=CC=C3)SC=C2)O | C13H12OS2
reactant | p-toluenesulphonic acid hydrate | 0.03 mole, 0.57 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 5-methyl-benzo[f]thieno[2,3-b]thiepin | CC1=CC2=C(SC3=C1C=CC=C3)SC=C2 | C13H10S2
